US05962458
2M Aqueous sodium hydroxide (0.3ml , 6 mmol) was added to a solution of 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline (257 mg, 5.5 mmol) in methanol (5 ml) and the mixture stirred for 1 hour at 40° C. Water and 1M hydrochloric acid (0.6 ml) were added and the mixture concentrated to half volume by evaporation. The resulting solid was collected by filtration, dissolved in methylene chloride/methanol and a solution of 7M hydrogen chloride in isopropanol (0.4 ml) was added. The volatiles were removed by evaporation, the solid residue was triturated with ether, collected by filtration and dried under vacuum to give 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride (160 mg, 60%).

reactant | sodium hydroxide | 6 mmol, 2M, 0.3ml | [OH-].[Na+]
reactant | 4-(2-fluoro-5-methoxycarbonyloxy-4-methylanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline | 5.5 mmol, 257 mg | FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=NC=C2)C=C(C(=C1)C)OC(=O)OC | C23H22FN5O5
reactant | Water | O | H2O
reactant | hydrochloric acid | 1M, 0.6 ml | Cl | ClH
solvent | methanol | 5 ml | CO | CH4O
product | 4-(2-fluoro-5-hydroxy-4-methylanilino)-7-(2-(imidazol-1-yl)ethoxy)-6-methoxyquinazoline hydrochloride | 160 mg, 60% | Cl.FC1=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCN2C=NC=C2)C=C(C(=C1)C)O | InChI=1S/C21H20FN5O3.ClH/c1-13-7-15(22)17(9-18(13)28)26-21-14-8-19(29-2)20(10-16(14)24-11-25-21)30-6-5-27-4-3-23-12-27;/h3-4,7-12,28H,5-6H2,1-2H3,(H,24,25,26);1H
